US06051712
In an analogous manner to that described in Example 73 (d), from tert-butyl (3RS,4SR,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-(2-morpholin-4-yl-ethoxymethyl)-3-(naphthalen-2-yl-acetyl)-piperidine-1-carboxylate by cleavage of BOC protecting group by means of anhydrous zinc bromide in methylene chloride there was obtained 1-[(3RS,4SR,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-(2-morpholin-4-yl-ethoxymethyl)-piperidin-3-yl]-2-naphthalen-2-yl-ethanone as a yellow oil MS: 637 (M+H)+.

reactant | tert-butyl (3RS,4SR,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-(2-morpholin-4-yl-ethoxymethyl)-3-(naphthalen-2-yl-acetyl)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1COCCN1CCOCC1)C(=O)OC(C)(C)C)C(CC1=CC2=CC=CC=C2C=C1)=O | C45H56N2O7
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | zinc bromide | [Br-].[Zn+2].[Br-]
product | 1-[(3RS,4SR,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-(2-morpholin-4-yl-ethoxymethyl)-piperidin-3-yl]-2-naphthalen-2-yl-ethanone | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CNCC1COCCN1CCOCC1)C(CC1=CC2=CC=CC=C2C=C1)=O | C40H48N2O5
